US03984467
1-(2-Chlorophenyl)-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 1 but using 2.3 g. sodium in 250 ml. dry acetone, 13.6 g. valeramidine hydrochloride, and 15.3 g. 2-chlorophenyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from isopropyl alcohol-ether 15.4 g. of the hydrochloride of 1-(2-chloropheyl)-3-(pentanimidoyl)yrea; m.p. 132°-134°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 2-chlorophenyl isocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2-Chlorophenyl)-3-(pentanimidoyl)urea | ClC1=C(C=CC=C1)NC(=O)NC(CCCC)=N | C12H16ClN3O
